US07767854B2
To a suspension of 60% sodium hydride (366 mg) and anhydrous tetrahydrofuran (50 ml) under ice-cooling was added diethyl 2-oxopropylphosphonate (1.78 g). The mixture was stirred for 15 minutes and then a solution of t-butyl trans-4-formylcyclohexylcarbamate (1.38 g) in anhydrous tetrahydrofuran (10 ml) was added thereto under the same condition. The mixture was stirred at room temperature for 3 hours, and then saturated aqueous ammonium chloride was added to the reaction mixture. The mixture was extracted with toluene, and the organic layer was washed with brine, dried over sodium sulfate, and then the solvent was removed in vacuo. The residue was purified by a silica gel chromatography (eluent: gradient from 100% hexane/0% ethyl acetate to 0% hexane/100% ethyl acetate) to give 1.32 g of t-butyl trans-4-[(E)-3-oxo-1-butenyl]cyclohexylcarbamate.

reactant | sodium hydride | 366 mg | [H-].[Na+]
reactant | diethyl 2-oxopropylphosphonate | 1.78 g | O=C(CP(OCC)(OCC)=O)C | C7H15O4P
reactant | t-butyl trans-4-formylcyclohexylcarbamate | 1.38 g | C(=O)[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C12H21NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | t-butyl trans-4-[(E)-3-oxo-1-butenyl]cyclohexylcarbamate | 1.32 g | O=C(/C=C/[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C | C15H25NO3
